US08383652B2
b-(Z)-2-ethoxy-3-{4-[6-(1-methyl-3-pentylureido)pyrid-2-yl]phenyl}acrylic acid
0.68 mL (0.68 mmol) of aqueous 1 M lithium hydroxide solution is added to a solution of 0.20 g (0.45 mmol) of ethyl (Z)-2-ethoxy-3-{4-[6-(1-methyl-3-pentylureido)pyrid-2-yl]phenyl}acrylate in 6 mL of tetrahydrofuran. The reaction mixture is stirred at 68° C. for 18 hours. After cooling, the reaction is worked up by addition of 0.68 mL (0.68 mmol) of aqueous 1 M acetic acid solution and 10 mL of water and extraction with ethyl acetate. The organic phases are combined, washed with saturated aqueous sodium chloride solution and then dried over magnesium sulfate. After filtration, the solvents are evaporated off.

reactant | lithium hydroxide | 1 M | [OH-].[Li+]
reactant | ethyl (Z)-2-ethoxy-3-{4-[6-(1-methyl-3-pentylureido)pyrid-2-yl]phenyl}acrylate | 0.45 mmol, 0.20 g | C(C)O\C(\C(=O)OCC)=C/C1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)NCCCCC)C | C25H33N3O4
reactant | acetic acid | 1 M | C(C)(=O)O | C2H4O2
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | b-(Z)-2-ethoxy-3-{4-[6-(1-methyl-3-pentylureido)pyrid-2-yl]phenyl}acrylic acid | CCO\C(=C/C(=O)O)\C1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)NCCCCC)C | C23H29N3O4
